US08017610B2
(59a) 5-(Azetidin-1-ylcarbonyl)-2-chloropyridine
Commercially available 6-chloronicotinic acid (160 mg, 1.01 mmol) was dissolved in dichloromethane (5 mL), and azetidine hydrochloride (130 mg, 1.39 mmol), HATU (420 mg, 1.10 mmol) and N,N-diisopropylethylamine (0.50 mL, 2.87 mmol) were added, followed by stirring at room temperature overnight under nitrogen atmosphere. The solvent was distilled off under reduced pressure, and the resulting residue was purified using silica gel column chromatography (elution solvent: ethyl acetate/hexane=40%-50%) to afford the desired compound (210 mg, yield ˜100%) as a colorless liquid.

reactant | 6-chloronicotinic acid | 1.01 mmol, 160 mg | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | azetidine hydrochloride | 1.39 mmol, 130 mg | Cl.N1CCC1
reactant | HATU | 1.10 mmol, 420 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 2.87 mmol, 0.50 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 5-(Azetidin-1-ylcarbonyl)-2-chloropyridine | 210 mg, yield ˜100% | N1(CCC1)C(=O)C=1C=CC(=NC1)Cl | C9H9ClN2O
